US05196438
A solution of 195 mg of 2-[3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-decahydro-(4aS,8aS)-isoquinoline-3(S)-carboxamide in 20 ml of ethanol was hydrogenated at room temperature and atmospheric pressure for 18 hours over 10 mg of 10% palladium-on-charcoal. The catalyst was filtered off and the filtrate was evaporated under reduced pressure to give 154 mg of 2-[3(S)-[(L-asparaginyl)amino]2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-decahydro-(4aS,8aS)-isoquinoline-3(S)-carboxamide.

reactant | 2-[3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-decahydro-(4aS,8aS)-isoquinoline-3(S)-carboxamide | 195 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](CN1C[C@H]2CCCC[C@H]2C[C@H]1C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C36H51N5O6
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 10 mg | [Pd] | Pd
product | 2-[3(S)-[(L-asparaginyl)amino]2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-decahydro-(4aS,8aS)-isoquinoline-3(S)-carboxamide | 154 mg | N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](CN1C[C@H]2CCCC[C@H]2C[C@H]1C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C28H45N5O4
